US07645755B2
a) 5-Chloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester
To a suspension of NaH (60% dispersion, 53.9 mg, 1.34 mmol) in DMF (5 mL) at 0° C., a solution of 5-chloro-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester (Bull. Pharm. Sci., 20(1): 47-61, (1997), 218 mg, 1.35 mmol) in DMF (10 mL) was added dropwise. The resulting suspension was stirred at the same temperature for 30 min and then treated with SEMCl (0.24 mL, 1.4 mmol). The resulting solution was stirred at RT for 30 min and poured onto ice. The mixture was extracted with ether (3×20 mL) and the ether layers were combined, dried (Na2SO4) and concentrated in vacuo. The residue obtained was chromatographed on silica (10% EtOAc/hexane) to obtain the title compound (227 mg, 58%). Mass spectrum (ESI, m/z): Calcd. for C10H18ClN3O3Si, 292.0 and 294.0 (M+H), found 291.5 and 293.6.

reactant | NaH | 1.34 mmol, 53.9 mg | [H-].[Na+]
reactant | 5-chloro-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester | 1.35 mmol, 218 mg | COC(=O)C1=NNC(=N1)Cl | C4H4ClN3O2
reactant | SEMCl | 1.4 mmol, 0.24 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester | 227 mg, 58% | COC(=O)C1=NN(C(=N1)Cl)COCC[Si](C)(C)C | C10H18ClN3O3Si
